US04464387
1-phenyl-3-methyl hydantoin
A mixture of n-phenyl glycine (22.3 grams, 0.15 moles), methylisocyanate (14.2 grams, 0.25 moles) and 30 ml of toluene was stirred at 40°-45° C. for 7 hours and allowed to stand overnight at room temperature (21° C.). The product was collected and washed with toluene, crystallized from toluene and yielded 10.5 grams (35% yield) of the above-identified product having a melting point of about 168°-170° C.

reactant | methylisocyanate | 0.25 moles, 14.2 grams | CN=C=O | C2H3NO
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-3-methyl hydantoin | 10.5 grams, 35% yield | C1(=CC=CC=C1)N1C(=O)N(C(=O)C1)C | C10H10N2O2
